US08580785B2
a) Preparation of 3-chloro-2-fluoro-5-nitro-4-(2-trimethylsilanyl-ethylsulfanyl)-benzoic acid
To a mixture of 3.52 g (16.96 mmol) of 3-chloro-2,4-difluoro-5-nitro-benzoic acid (prepared as described in WO 03/077914) in 70 mL of EtOH, is added 6.56 g (47.48 mmol, 2.8 eq.) of K2CO3 dissolved in 30 mL of H2O. Then, 2.67 mL (16.96 mmol) of 2-(trimethylsilyl)ethanethiol are added in 10 minutes. The mixture is stirred at 50° C. during 1 h and then cooled to ambient temperature. After addition of a saturated NH4Cl aqueous solution, the product is extracted with EtOAc (3 times). The regrouped organic phases are dried with Na2SO4, filtered and evaporated. The crude 3-chloro-2-fluoro-5-nitro-4-(2-trimethylsilanyl-ethylsulfanyl)-benzoic acid is contaminated by 3-chloro-5-nitro-2,4-bis-(2-trimethylsilanyl-ethylsulfanyl)-benzoic acid. NMR integrals indicated a ratio 74:26 in favour of the desired compound. 1H-NMR of 3-chloro-2-fluoro-5-nitro-4-(2-trimethylsilanyl-ethylsulfanyl)-benzoic acid (CDCl3, 300 MHz): 0.04 (s, 9H), 0.76-0.81 (m, 2H), 2.90-2.94 (m, 2H), 7.93 (d, 1H) ppm. The mixture is used directly in the next step without further purification.

reactant | 3-chloro-2,4-difluoro-5-nitro-benzoic acid | 16.96 mmol, 3.52 g | ClC=1C(=C(C(=O)O)C=C(C1F)[N+](=O)[O-])F | C7H2ClF2NO4
reactant | K2CO3 | 47.48 mmol, 6.56 g, 2.8 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(trimethylsilyl)ethanethiol | 16.96 mmol, 2.67 mL | C[Si](CCS)(C)C | C5H14SSi
reactant | NH4Cl | [NH4+].[Cl-]
solvent | EtOH | 70 mL | CCO | C2H6O
solvent | H2O | 30 mL | O | H2O
product | 3-chloro-2-fluoro-5-nitro-4-(2-trimethylsilanyl-ethylsulfanyl)-benzoic acid | ClC=1C(=C(C(=O)O)C=C(C1SCC[Si](C)(C)C)[N+](=O)[O-])F | C12H15ClFNO4SSi
